US06274735B1
Another preferred aspect of the present invention is the transformation of (3R,4R)-4-(4-benzyloxy-phenyl)-1-((R)-1-phenyl-ethyl)-piperidin-3-ol hydrochloride to 1-[2-[7-[(3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-naphthalen-2-yloxy]-ethyl]-4-methyl-piperazine by the following procedure: a) reacting (3R,4R)-4-(4-benzyloxy-phenyl)-1-((R)-1-phenyl-ethyl)-piperidin-3-ol hydrochloride with hydrogen to yield (3R,4R)-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrochloride;

reactant | (3R,4R)-4-(4-benzyloxy-phenyl)-1-((R)-1-phenyl-ethyl)-piperidin-3-ol hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1[C@H](CN(CC1)[C@H](C)C1=CC=CC=C1)O
reactant | 1-[2-[7-[(3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-naphthalen-2-yloxy]-ethyl]-4-methyl-piperazine | COC1=C(COCCCOC2=CC=C(C=C2)[C@@H]2[C@H](CNCC2)OCC2=CC=C3C=CC(=CC3=C2)OCCN2CCN(CC2)C)C=CC=C1 | C40H51N3O5
reactant | hydrogen | [H][H] | H2
product | (3R,4R)-4-(4-hydroxy-phenyl)-piperidin-3-ol hydrochloride | Cl.OC1=CC=C(C=C1)[C@@H]1[C@H](CNCC1)O | InChI=1S/C11H15NO2.ClH/c13-9-3-1-8(2-4-9)10-5-6-12-7-11(10)14;/h1-4,10-14H,5-7H2;1H/t10-,11+;/m1./s1
